US06068831
a) 10-[5-(2-Carboxyphenyl)-2-hydroxy-5-oxo-4-aza-pentyl]-1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane
50 g (144.3 mmol) of 1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane (D03A) is dissolved in 250 ml of water, and the pH is set at 13 with 5N sodium hydroxide solution. Then, a solution of 38.12 g (187.6 mmol) of N(2,3-epoxypropyl)phthalimide (Aldrich) in 100 ml of dioxane is added in drops within one hour, stirred for 24 hours at 50° C., and the pH is kept at 13 by adding 5N sodium hydroxide solution. The solution is set at pH 2 with 10% hydrochloric acid and evaporated to the dry state in a vacuum. The residue is dissolved in some water and purified on an ion-exchange column (Reillex®=poly-(4-vinyl)pyridine (it is eluted with water). The main fractions are concentrated by evaporation in a vacuum, and final purification of the residue is achieved by chromatography on RP-18 (LiChroPrep®/mobile solvent: gradient that consists of tetrahydrofuran/methanol/water). After the main fractions are concentrated by evaporation, 63.57 g (71% of theory) of an amorphous solid is obtained.

reactant | 1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane | 144.3 mmol, 50 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | N(2,3-epoxypropyl)phthalimide | 187.6 mmol, 38.12 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 10-[5-(2-Carboxyphenyl)-2-hydroxy-5-oxo-4-aza-pentyl]-1,4,7-tris(carboxymethyl)-1,4,7,10-tetraazacyclododecane | C(=O)(O)C1=C(C=CC=C1)C(NCC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)O)=O | C25H37N5O10
